US05847159
Preparation of 1-[3-(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)propanoyl]-piperidine
To a solution of 1,2,3,4-tetrahydro-1-oxo-2-naphthalenepropanoic acid (6.3 g), piperidine (3.7 g) and BOP Reagent (15.4 g) in dichloromethane (150 ml) was added dropwise triethylamine (3.5 g) at 25° C., and the mixture was refluxed for three hours. The reaction mixture was washed successively with water and 10% hydrochloric acid, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure to remove the solvent, and the residue was purified by silica gel column chromatography (eluent; toluene:ethyl acetate=10:1), and the fractions containing the desired compound were combined, and concentrated under reduced pressure to give the desired compound (7.1 g) as an oily product.

reactant | 1,2,3,4-tetrahydro-1-oxo-2-naphthalenepropanoic acid | 6.3 g | O=C1C(CCC2=CC=CC=C12)CCC(=O)O | C13H14O3
reactant | piperidine | 3.7 g | N1CCCCC1 | C5H11N
reactant | BOP Reagent | 15.4 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-[3-(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)propanoyl]-piperidine | 7.1 g | O=C1C(CCC2=CC=CC=C12)CCC(=O)N1CCCCC1 | C18H23NO2
